US09302996B2
Methanol (4.3 mL) and 1N aqueous sodium hydroxide solution (1.7 mL) were added to ethyl 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclobutanecarboxylate (213 mg), and the mixture was refluxed for 1 hour. Methanol was distilled off under reduced pressure, and the residue was neutralized by 1N hydrochloric acid. The mixture was extracted with ethyl acetate, the organic layer was washed with a saturated brine, and dried over anhydrous magnesium sulfate. After concentrating the mixture under reduced pressure, the obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 95:5) to obtain 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclobutanecarboxylic acid (205 mg).

reactant | sodium hydroxide | 1N, 1.7 mL | [OH-].[Na+]
reactant | ethyl 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclobutanecarboxylate | 213 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC1(CCC1)C(=O)OCC)C | C30H37ClF3N3O4Si
solvent | Methanol | 4.3 mL | CO | CH4O
product | 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclobutanecarboxylic acid | 205 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC1(CCC1)C(=O)O)C | C28H33ClF3N3O4Si
